US07524852B2
Synthesis of 2,4-dichloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl-N-ethylcarboxamide
2,4-Dichloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine hydrochloride (2.0 g, 8.3 mmol) prepared according to Reference Example 1 was dissolved in ethyl acetate (20 mL), and the solution was mixed with triethylamine (1.4 mL) and ethyl isocyanate (0.89 mL), followed by stirring at room temperature for twelve hours. After checking the completion of the reaction by thin layer chromatography, the reaction mixture was diluted with water and was extracted with ethyl acetate. The organic layer was washed with brine, was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure, to thereby yield 2,4-dichloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl-N-ethylcarboxamide (2.3 g, in a quantitative yield).

reactant | 2,4-Dichloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine hydrochloride | 8.3 mmol, 2.0 g | Cl.ClC=1N=C(C2=C(N1)CCNC2)Cl
reactant | triethylamine | 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl isocyanate | 0.89 mL | C(C)N=C=O | C3H5NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2,4-dichloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-6-yl-N-ethylcarboxamide | quantitative yield | ClC=1N=C(C2=C(N1)CCN(C2)C(=O)NCC)Cl | C10H12Cl2N4O
